US07777047B2
5-methyl-2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazole-5-carboxamide
A mixture of N-[2-(5-cyano-5-methyl-4,5-dihydro-1,3-thiazol-2-yl)-1H-indol-7-yl]-N-methylthiophene-2-sulfonamide (0.38 g), 2N aqueous sodium hydroxide solution (0.90 mL), tetrahydrofuran (4 mL) and ethanol (4 mL) was heated under reflux for 4 hr. 10% Aqueous citric acid solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. A mixture of the obtained residue, 1H-1,2,3-benzotriazol-1-ol (0.15 g), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (0.21 g) and N,N-dimethylformamide (6 mL) was added at room temperature for 1 hr, and 28% aqueous ammonia (0.22 mL) was added. The mixture was stirred overnight at room temperature, water was added to the reaction mixture, and the precipitated solid was collected by filtration, washed with water, and dried. The obtained solid was suspended in ethanol, and the mixture was stirred for 15 min. The crystals were collected by filtration, washed with ethanol and ethyl acetate, and dried to give the title compound (0.29 g, yield 74%) as colorless crystals. melting point 248-249° C.

reactant | N-[2-(5-cyano-5-methyl-4,5-dihydro-1,3-thiazol-2-yl)-1H-indol-7-yl]-N-methylthiophene-2-sulfonamide | 0.38 g | C(#N)C1(CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C)C | C18H16N4O2S3
reactant | sodium hydroxide | 2N, 0.90 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 5-methyl-2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazole-5-carboxamide | 0.29 g, yield 74% | CC1(CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C)C(=O)N | C18H18N4O3S3
